US04456464
A mixture of 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene (500 mg, 1.38 mmol), diethyl hydroxymethylphosphonate (295 mg, 1.66 mmol) and potassium carbonate (285 mg, 2.07 mmol) in 2-butanone (5 ml) is heated under reflux for 6 hours. After cooling, the reaction mixture is filtered, and the filtrate is concentrated to dryness. The crude product is purified by preparative thin layer chromatography (prep. TLC) (silica gel, developed with 50% ethyl acetate/hexane) to give diethyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethyl-phosphonate.

reactant | 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene | 1.38 mmol, 500 mg | ClC1=C(OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H6ClF3N2O5
reactant | diethyl hydroxymethylphosphonate | 1.66 mmol, 295 mg | OCP(OCC)(OCC)=O | C5H13O4P
reactant | potassium carbonate | 2.07 mmol, 285 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 5 ml | CC(CC)=O | C4H8O
product | diethyl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethyl-phosphonate | [N+](=O)([O-])C1=C(OCP(OCC)(OCC)=O)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C18H18ClF3NO7P
